US08053457B2
(2-Aminomethyl-5-chloro-phenyl)-(3-methoxy-propyl)-amine
The title compound is synthesized by coupling followed by reduction of 4-chloro-2-fluoro-benzonitrile and 3-methoxy-propylamine analogously to the preparation of Intermediate 113.1. colorless oil; ES-MS: M−=227.1; HPLC: AtRet=2.97 min.

reactant | 4-chloro-2-fluoro-benzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-methoxy-propylamine | COCCCN | C4H11NO
product | (2-Aminomethyl-5-chloro-phenyl)-(3-methoxy-propyl)-amine | NCC1=C(C=C(C=C1)Cl)NCCCOC | C11H17ClN2O
